US05296499
A solution of boron tribromide (BBr3) (0.18 ml) in dichloromethane (0.36 ml) was dropwise added to a solution of methyl 3-(4-methoxyphenyl)-5,6-dimethylindole-2-carboxylate (0.3 g) in dichloromethane (10 ml) at 0° C. The reaction mixture was stirred for 2 hours at the same temperature, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The precipitated crystals were collected by filtration and recrystallized from acetone to give methyl 3-(4-hydroxyphenyl)-5,6-dimethylindole-2-carboxylate (0.127 g, 44%) as colorless needles.

reactant | boron tribromide | 0.18 ml | B(Br)(Br)Br | BBr3
reactant | methyl 3-(4-methoxyphenyl)-5,6-dimethylindole-2-carboxylate | 0.3 g | COC1=CC=C(C=C1)C1=C(NC2=CC(=C(C=C12)C)C)C(=O)OC | C19H19NO3
reactant | water | O | H2O
solvent | dichloromethane | 0.36 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 3-(4-hydroxyphenyl)-5,6-dimethylindole-2-carboxylate | 0.127 g, 44% | OC1=CC=C(C=C1)C1=C(NC2=CC(=C(C=C12)C)C)C(=O)OC | C18H17NO3
